* Z:\mnt\design.r\spice\examples\1129-5.asc
V1 IN 0 PWL(0 0 1 10)
Rload OUT 0 100
C1 OUT 0 1µ
XU1 OUT OUT 0 N001 IN LT1129-5
R1 IN N001 10K
.tran 1
.lib LT1129.lib
.backanno
.end
