* Z:\mnt\design.r\spice\examples\1236-10.asc
V1 IN 0 pwl(0 0 1u 12)
XU1 NC_01 0 OUT LT1236-10
R1 IN OUT 1K
.tran 20u
.lib LTC4.lib
.backanno
.end
