* Z:\mnt\design.r\spice\examples\1265-5.asc
D1 0 N001 1N5818
L1 N001 N002 50µ
R1 N002 OUT 100m
C1 N007 0 130p
C2 N005 0 3900p
V1 IN 0 10
C3 OUT 0 220µ Rser=0.01
C4 N002 OUT 1000p
R2 N006 N005 1K
R3 IN N003 5K
R4 IN N004 1Meg
R5 N004 0 200K
XU1 MP_01 IN N003 N004 N007 N006 OUT N002 MP_02 0 0 MP_03 MP_04 N001 LTC1265-5
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LTC1265-5.sub
.backanno
.end
