* Z:\mnt\design.r\spice\examples\1521-5.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1.5µ
Rload OUT 0 500
XU1 OUT OUT 0 MP_01 N001 MP_02 MP_03 IN LT1521-5
.tran 1
.lib LT1521.lib
.backanno
.end
