* Z:\mnt\design.r\spice\examples\1615-1.asc
C2 OUT 0 1µ
D1 N001 OUT BAT54
L1 IN N001 10µ Rpar=20K
R2 N002 0 130K
R1 OUT N002 1Meg
V1 IN 0 4
XU1 N001 0 N002 IN IN LT1615-1
Rload OUT 0 1K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1615-1.sub
.backanno
.end
