* Z:\mnt\design.r\spice\examples\1634-5.asc
V1 N001 0 10
R1 N001 N002 500K
XU1 N002 0 LT1634-5
.dc temp -40 80 .1
.lib LTC3.lib
.backanno
.end
