* Z:\mnt\design.r\spice\examples\1647-3.asc
C1 0 N002 10n Rser=1K
R1 N003 N002 10
R2 IN1 N001 20m
M§Q1 N001 N003 OUT1 OUT1 IRF7413A
C2 OUT1 0 30µ
V1 IN2 0 PWL(0 0 2.5m 0 +1u 12 160m 12 +1u 0)
D1 0 N002 UMZ22K
C3 0 N006 10n Rser=1K
R3 N009 N006 10
R4 IN2 N010 20m
M§Q2 N010 N009 OUT2 OUT2 IRF7413A
C4 OUT2 0 30µ
D2 0 N006 UMZ22K
C5 N004 0 0.1µ
R5 IN1 N004 15K
XU1 IN1 N004 N005 N008 N007 MP_01 MP_02 0 MP_03 MP_04 MP_05 N006 N002 N010 N001 IN2 LTC1647-3
C6 N008 0 0.1µ
R6 IN2 N008 15K
R7 N005 IN1 10K
R8 N007 IN2 10K
V2 IN1 0 PWL(0 0 5m 0 +1u 12)
Rload1 OUT1 0 8
Rload2 OUT2 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 240m
.lib LTC1647-3.sub
.backanno
.end
