* Z:\mnt\design.r\spice\examples\1693-3.asc
XU1 N001 MP_01 0 0 MP_02 MP_03 N003 IN LTC1693-3
R1 N003 N001 13K
R2 N003 N002 7.5K
C1 N001 0 680p
D1 N001 N002 BZX84C6V2L
M§Q1 N004 N003 0 0 FDS6680A
L1 IN N004 22µ
D2 N004 OUT 1N5819
C2 OUT 0 47µ
Rload OUT 0 10
V1 IN 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1693-3.sub
.backanno
.end
