* Z:\mnt\design.r\spice\examples\1706-82.asc
V1 N001 0 3.3
V2 N007 0 .8
G1 0 OUT N007 N004 1
V3 N002 0 PULSE(0 2.4 0 1n 1n .5m 1m)
V4 N003 0 PULSE(0 2.4 0 1n 1n 1m 2m)
V5 N005 0 PULSE(0 2.4 0 1n 1n 2m 4m)
V6 N006 0 PULSE(0 2.4 0 1n 1n 4m 8m)
C1 OUT 0 .1µ
V7 N008 0 PULSE(0 2.4 0 1n 1n 8m 16m)
XU1 N005 N006 N001 0 N004 OUT N002 N003 N008 LTC1706-82
.tran 16m
.lib LTC1706-82.sub
.backanno
.end
