* Z:\mnt\design.r\spice\examples\1762-3.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 10µ
Rload OUT 0 500
C2 OUT N001 .01µ
XU1 OUT OUT N001 0 IN MP_01 MP_02 IN LT1762-3
.tran 1
.lib LT1762.lib
.backanno
.end
