* Z:\mnt\design.r\spice\examples\1922-1.asc
XU1 MP_01 N012 N012 N019 N014 N017 N022 N006 N011 N009 N013 N020 N015 N008 N003 N005 N007 N004 0 N023 LTC1922-1
R1 N014 0 10K
S1 N002 IN N004 0 SW
S2 N010 N002 N007 0 SW
S3 N001 IN N005 0 SW
S4 N010 N001 N008 0 SW
R2 IN N003 1K
R3 N010 0 100m
L1 N002 N001 1m
V1 IN 0 48
R4 IN N011 310K
R5 N011 0 10K
R6 N019 N018 5K
C1 N022 0 1p
C2 N023 0 152p
R7 N001 N009 28K
R8 N009 0 1K
R9 N002 N006 28K
R10 N006 0 1K
L2 N016 N021 .2m
L3 N016 OUT 2.4µ
S5 0 N021 0 N020 SR
L4 N021 OUT 2.4µ
C3 OUT 0 100µ Rser=50m
R11 OUT N017 3.15K
R12 N017 0 1K
S6 N016 0 0 N015 SR
C4 N003 0 100µ
R13 N010 N012 510
C5 0 N012 100p
C6 N018 N017 1000p
D1 0 N021 DD
D2 0 N016 DD
C7 N002 0 2000p
C8 N001 0 2000p
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 .99
.tran .5m
.model DD D(Ron=1 Roff=10Meg)
.model SW SW(Ron=.1 Roff=10Meg Vt=5 Vh=-3)
.model SR SW(Ron=.01 Roff=10Meg Vt=-5 Vh=-3)
.lib LTC1922-1.sub
.backanno
.end
