* Z:\mnt\design.r\spice\examples\2862-2.asc
V1 N001 0 3.3
C1 N006 0 5p Rpar=1Meg
V3 N002 COM 3.3
V5 COM 0 SINE(0 20 10K)
L1 N004 N003 50n Rser=10
C4 N003 N010 100p
C3 N004 N013 100p
C5 N005 N011 100p
L2 N005 N004 50n Rser=10
L3 N013 N010 50n Rser=10
L4 N011 N013 50n Rser=10
C2 N007 COM 5p Rpar=1Meg
XU1 N006 N008 N008 N012 MP_01 0 MP_02 MP_03 MP_04 N010 N003 N001 LTC2862-2
XU2 N007 N009 N009 N014 MP_05 COM MP_06 MP_07 MP_08 N011 N005 N002 LTC2862-2
V2 N008 0 PWL(0 0 10n 3.3 40u 3.3 +10n 0)
V4 N012 0 PULSE(0 3.3 1u 4n 4n 2u 4u 10)
V6 N014 COM PULSE(0 3.3 50u 4n 4n 2u 4u 10)
V7 N009 COM PWL(0 0 40u 0 +10n 3.3)
* Twisted pair
* Forward transmission from DIF to ROF  followed by\nreverse transmission from DIR to ROR
.tran 100u
.lib LTC2862-2.lib
.backanno
.end
