* Z:\mnt\design.r\spice\examples\2863-2.asc
V1 N004 0 3.3
C1 N008 0 5p Rpar=1Meg
V3 N009 COM 3.3
V4 N014 0 PULSE(0 3.3 1u 4n 4n 2.5u 5u 10)
V5 COM 0 SINE(0 20 10K)
L1 N011 N010 50n Rser=10
C4 N010 N016 100p
C3 N011 N017 100p
C5 N012 N013 100p
L2 N012 N011 50n Rser=10
L3 N017 N016 50n Rser=10
L4 N013 N017 50n Rser=10
L5 N002 N001 50n Rser=10
C6 N001 N005 100p
C7 N002 N006 100p
C8 N003 N007 100p
L6 N003 N002 50n Rser=10
L7 N006 N005 50n Rser=10
L8 N007 N006 50n Rser=10
C2 N015 COM 5p Rpar=1Meg
XU1 N008 MP_01 MP_02 N014 MP_03 0 MP_04 N016 N010 N001 N005 N004 LTC2863-2
XU2 N015 MP_05 MP_06 N015 MP_07 COM MP_08 N007 N003 N012 N013 N009 LTC2863-2
.tran 70u
* Twisted pair
* Twisted pair
* Loopback Test
.lib LTC2863-2.lib
.backanno
.end
