* Z:\mnt\design.r\spice\examples\2864-2.asc
V1 N004 0 3.3
C1 N008 0 5p Rpar=1Meg
V2 N009 COM 3.3
V3 N015 0 PULSE(0 3.3 1u 4n 4n 2.5u 5u 10)
V4 COM 0 SINE(0 20 10K)
L1 N012 N011 50n Rser=10
C2 N011 N017 100p
C3 N012 N019 100p
C4 N013 N014 100p
L2 N013 N012 50n Rser=10
L3 N019 N017 50n Rser=10
L4 N014 N019 50n Rser=10
L5 N002 N001 50n Rser=10
C5 N001 N005 100p
C6 N002 N006 100p
C7 N003 N007 100p
L6 N003 N002 50n Rser=10
L7 N006 N005 50n Rser=10
L8 N007 N006 50n Rser=10
V5 N010 0 PWL(0 0 10n 3.3 50u 3.3 +10n 0)
V6 N020 COM PULSE(0 3.3 50u 4n 4n 2.5u 5u 10)
V7 N018 COM PWL(0 0 50u 0 +10n 3.3)
C8 N016 COM 5p Rpar=1Meg
XU1 N008 N010 N010 N015 MP_01 0 MP_02 N017 N011 N001 N005 N004 LTC2864-2
XU2 N016 N018 N018 N020 MP_03 COM MP_04 N007 N003 N013 N014 N009 LTC2864-2
.tran 100u
* Twisted pair
* Twisted pair
* Forward transmission from DIF to ROF  followed by\nreverse transmission from DIR to ROR
.lib LTC2864-2.lib
.backanno
.end
