* Z:\mnt\design.r\spice\examples\2912-1.asc
XU1 N007 N004 N006 0 N008 N005 N003 N002 LTC2912-1
V1 N007 0 PWL(0 0 3.3 3.3 13 3.3 13.001 0 20 0 20.001 3.3)
V2 N001 0 PWL(0 0 5 5 6 5 7 6 8 6 10 4 11 4 12 5 13 5 14 6 15 6 17 4 18 4 19 5 20 5 25 0)
R1 N003 N005 1K
R2 N001 N003 44.2K
R3 N005 0 4.53K
R4 N002 N004 10K
R5 N002 N006 10K
C1 N008 0 .01µ
V3 N002 0 PWL(0 0 3.3 3.3 20 3.3 23.3 0)
.tran 25
.lib LTC2912-1.sub
.backanno
.end
